US07939531B2
Step 1—A solution of commercially available 3-bromo-1H-pyrrolo[2,3-b]pyridine (0.53 g, 2.69 mmol) in 4 mL of DMF was added at 0° C. to a suspension of NaH 60% dispersion in oil (0.14 g, 3.497 mmol) in 4 mL of DMF. The resulting mixture was stirred at RT for 30 minutes before being cooled to 0° C. and adding iodomethane (0.67 mL, 10.759 mmol). The reaction mixture was allowed to reach RT overnight before being quenched by addition of H2O and extracted three times with EtOAc. The combined organic layers were washed with brine, dried (MgSO4), filtered, and evaporated. The residue was purified by SiO2 chromatography (hexanes/EtOAc 0-20% EtOAc) to give 0.386 g of 3-bromo-1-methyl-1H-pyrrolo[2,3-b]pyridine (68% yield).

reactant | 3-bromo-1H-pyrrolo[2,3-b]pyridine | 2.69 mmol, 0.53 g | BrC1=CNC2=NC=CC=C21 | C7H5BrN2
reactant | NaH | [H-].[Na+]
reactant | iodomethane | 10.759 mmol, 0.67 mL | IC | CH3I
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 3-bromo-1-methyl-1H-pyrrolo[2,3-b]pyridine | 0.386 g, 68% yield | BrC1=CN(C2=NC=CC=C21)C | C8H7BrN2
